US09422293B2
Step B: 2-Methylsulfanyl-4-trifluoromethanesulfonyloxy-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester
To a solution of 4-hydroxy-2-methylsulfanyl-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester (1.2 g, 3.86 mmol) in THF (129 mL) was added KOtBu (518 mg, 4.63 mmol) at rt. After 20 min, N-phenyl-bis(trifluoromethanesulfonimide) (1.9 g, 5.40 mmol) was added. The reaction mixture was stirred for an additional 24 h at rt and then concentrated. The residue was purified (FCC) to afford the title compound (1.4 g, 82%)

reactant | 4-hydroxy-2-methylsulfanyl-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester | 3.86 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=NC(=N2)SC)O | C14H21N3O3S
reactant | KOtBu | 4.63 mmol, 518 mg | CC(C)(C)[O-].[K+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 5.40 mmol, 1.9 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 129 mL | C1CCOC1 | C4H8O
product | 2-Methylsulfanyl-4-trifluoromethanesulfonyloxy-5,6,8,9-tetrahydro-pyrimido[4,5-d]azepine-7-carboxylic acid tert-butyl ester | 1.4 g, 82% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=NC(=N2)SC)OS(=O)(=O)C(F)(F)F | C15H20F3N3O5S2
